US07396847B2
(5R)-3-(3-Fluoro-4-iodophenyl)-5-hydroxymethyloxazolidin-2-one
Acetic acid (5R)-3-(3-fluoro-4-iodophenyl)-2-oxo-oxazolidin-5-ylmethyl ester (30 g, 79 mM) was treated with potassium carbonate (16.4 g, 0.119 mM) in a mixture of methanol (800 ml) and dichloromethane (240 ml) at ambient temperature for 25 minutes, then immediately neutralised by the addition of acetic acid (10 ml) and water (500 ml). The precipitate was filtered, washed with water, and dissolved in dichloromethane (1.2 L), the solution washed with saturated sodium bicarbonate, and dried (magnesium sulfate). Filtration and evaporation gave the desired product (23 g).

reactant | Acetic acid (5R)-3-(3-fluoro-4-iodophenyl)-2-oxo-oxazolidin-5-ylmethyl ester | 79 mM, 30 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)COC(C)=O)=O | C12H11FINO4
reactant | potassium carbonate | 0.119 mM, 16.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | water | 500 ml | O | H2O
solvent | methanol | 800 ml | CO | CH4O
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
product | (5R)-3-(3-Fluoro-4-iodophenyl)-5-hydroxymethyloxazolidin-2-one | 23 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CO)=O | C10H9FINO3
